US06699904B2
To a solution of [2-(4-bromo-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester (20 g, 50.2 mmol) dissolved in tetrahydrofuran (200 mL) under a nitrogen atmosphere at −78° C. was added 1.3 M sec-BuLi in cyclohexane (100.5 mmol, 77.3 mL) dropwise. The solution was allowed to stir at −78° C. for 30 minutes. Anhydrous N,N-dimethylformamide (150.6 mmol, 11.6 mL) was added in one portion and the solution was allowed to warm to room temperature. After stirring for 30 minutes the mixture was poured over saturated NH4Cl solution and extracted with diethyl ether (3×). The organic layers were combined, washed with water (1×), saturated brine (2×), dried over Na2SO4 and concentrated to a crude yellow oil. The oil was purified by chromatography on silica gel (Merck silica gel 60, art#9385-3) eluting with 20% ethyl acetate in hexanes to give impure [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester as a clear oil used directly in the following procedure. (11.62 g crude).

reactant | [2-(4-bromo-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester | 50.2 mmol, 20 g | C(C)(C)(C)OC(N(CCCCCCC)CCC1=CC=C(C=C1)Br)=O | C20H32BrNO2
reactant | sec-BuLi | 1.3 M | [Li]C(C)CC
reactant | cyclohexane | 100.5 mmol, 77.3 mL | C1CCCCC1 | C6H12
reactant | N,N-dimethylformamide | 150.6 mmol, 11.6 mL | CN(C=O)C | C3H7NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | [2-(4-formyl-phenyl)-ethyl]-heptyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCCCC)CCC1=CC=C(C=C1)C=O)=O | C21H33NO3
